US06326369B1
N,N-Dimethyl-4-[4-(5,6-dimethoxy-4,7-dioxoindan-2-yl)butoxy]benzamide
A water (1.0 ml) solution of CAN (1.07 g, 1.96 mmols) was dropwise added to an acetonitrile (8.0 ml) solution of N,N-dimethyl-4-[4-(4,5,6,7-tetramethoxyindan-2-yl)butoxy]benzamide (358 mg, 0.782 mmols), with cooling with ice, and stirred for 15 minutes. Water was added to the reaction mixture, which was then extracted with ethyl acetate. The organic layer was washed with water and a saturated aqueous sodium chloride solution, and then dried. The solvent was evaporated out in vacuo, and the resulting crude product was purified by silica gel column chromatography (hexane:ethyl acetate=4:1 to 1:2) followed by recrystallization (from diisopropyl ether-ethyl acetate) to obtain the entitled compound (153 mg) as crystals.

reactant | CAN | 1.96 mmols, 1.07 g | O=[N+]([O-])[O-].[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[Ce+4].[NH4+].[NH4+]
reactant | acetonitrile | 8.0 ml | C(C)#N | C2H3N
reactant | N,N-dimethyl-4-[4-(4,5,6,7-tetramethoxyindan-2-yl)butoxy]benzamide | 0.782 mmols, 358 mg | CN(C(C1=CC=C(C=C1)OCCCCC1CC2=C(C(=C(C(=C2C1)OC)OC)OC)OC)=O)C | C26H35NO6
solvent | Water | O | H2O
solvent | water | 1.0 ml | O | H2O
product | N,N-Dimethyl-4-[4-(5,6-dimethoxy-4,7-dioxoindan-2-yl)butoxy]benzamide | 153 mg | CN(C(C1=CC=C(C=C1)OCCCCC1CC=2C(C(=C(C(C2C1)=O)OC)OC)=O)=O)C | C24H29NO6
